US09102614B2
Preparation of 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-(tert-butyldimethylsilyloxy)acetic acid:
A DCM solution (8.0 mL) of 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-(tert-butyldimethylsilyl-oxy)acetaldehyde (0.65 g, 1.29 mmol) was combined with 2-methyl-2-butene (1.5 mL, 14.1 mmol), sodium dihydrogen phosphate (8.0 mL, 1.0 M) and sodium chlorite (1.37 g, 14.46 mmol) and stirred vigorously overnight. The mixture was diluted 200% with DCM, the acidity adjusted to pH<5 with 2 M NaHSO4 and extracted with DCM (3×20 mL). The extracts were combined dried and concentrated under vacuo. The crude mixture was observed to contain the desired carboxylic acid (0.741 g) according to 1H NMR analysis and was used without purification. 1H-NMR: (400 MHz, CD3OD): δ 8.35 (d, J=8.4 Hz, 1H); 7.58-7.51 (m, 3H); 7.46-7.44 (m, 1H); 7.39-7.33 (m, 1H); 7.31-7.22 (m, 2H); 5.33 (s, 1H); 2.72 (s, 3H); 0.825 (s, 9H); −0.03 (s, 3H); −0.26 (s, 3H).

reactant | 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-(tert-butyldimethylsilyl-oxy)acetaldehyde | 1.29 mmol, 0.65 g | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C=O)O[Si](C)(C)C(C)(C)C)C | C25H28BrClO2Si
reactant | 2-methyl-2-butene | 14.1 mmol, 1.5 mL | CC(C)=CC | C5H10
reactant | sodium dihydrogen phosphate | 1.0 M, 8.0 mL | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 14.46 mmol, 1.37 g | Cl(=O)[O-].[Na+]
reactant | NaHSO4 | 2 M | OS(=O)(=O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 8.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-(tert-butyldimethylsilyloxy)acetic acid | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)O)O[Si](C)(C)C(C)(C)C)C | C25H28BrClO3Si
